US05043093
A mixture of 40 g of 5-n-nonyl-2-(4-carbomethoxy- phenyl)-4,6-dichloropyrimidine (obtainable by condensing 4-carbomethoxybenzamidine hydrochloride with ethyl n-nonylmalonate and subsequently reacting the 4,6-dihydroxy compound with phosphorus oxychloride) and 40 ml of triethylamine is dissolved in 400 ml of methanol and, after addition of 20 g of 5 percent palladium carbon, hydrogenated under atmospheric pressure at 50° until the calculated amount of hydrogen has been taken up. Working up gives methyl p-(5-nonylpyrimidyl)-benzoate, m.p. 61.7°, c.p. 65°.

reactant | 5-n-nonyl-2-(4-carbomethoxy- phenyl)-4,6-dichloropyrimidine | 40 g | C(CCCCCCCC)C=1C(=NC(=NC1Cl)C1=CC=C(C=C1)C(=O)OC)Cl | C21H26Cl2N2O2
reactant | 4-carbomethoxybenzamidine hydrochloride | Cl.C(=O)(OC)C1=CC=C(C(=N)N)C=C1
reactant | ethyl n-nonylmalonate | C(CCCCCCCC)C(C(=O)OCC)C(=O)[O-]
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium carbon | 20 g | [C].[Pd]
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | methyl p-(5-nonylpyrimidyl)-benzoate | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)OC)C=C1 | C21H28N2O2
